US04810283
2.8 g (0.02 mole) of potassium carbonate are added to 3.4 g (0.01 mole) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitro-5-amino-pyrazole, dissolved in 30 ml of acetonitrile, and 3.7 g (0.022 mole) of methyl α-bromopropionate, dissolved in 10 ml of acetonitrile, are added dropwise at room temperature in the course of 10 minutes. The reaction mixture is heated under reflux for 21/2 hours and filtered hot and the solvent and excess α-bromopropionate are removed by concentration of the filtrate in vacuo. The residue is crystallized from petroleum ether. 3.8 g (88% of theory) of methyl α-{N-[1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-nitro-pyrazol-5-yl]amino}-propionate of melting point 123° C.-130° C. are obtained.

reactant | potassium carbonate | 0.02 mole, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitro-5-amino-pyrazole | 0.01 mole, 3.4 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=C1N)[N+](=O)[O-] | C10H5Cl2F3N4O2
reactant | methyl α-bromopropionate | 0.022 mole, 3.7 g | BrC(C(=O)OC)C | C4H7BrO2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl α-{N-[1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-nitro-pyrazol-5-yl]amino}-propionate | 3.8 g, 88% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=C1NC(C(=O)OC)C)[N+](=O)[O-] | C14H11Cl2F3N4O4
